US07399759B2
tert-Butyl 2-pyridylcarbamate
2-Aminopyridine (6.0 g, 63.7 mmol) and di-tert-butyl dicarbonate (14.4 g, 65.9 mol) were dissolved in tetrahydrofuran (150 ml), and the mixture was refluxed for 12 hrs. After cooling, the precipitates were filtered, and the filtrate was concentrated. The residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (15:1, v/v) were collected and concentrated to give the titled compound (7.5 g, 60%).

reactant | 2-Aminopyridine | 63.7 mmol, 6.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | di-tert-butyl dicarbonate | 65.9 mol, 14.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | tert-Butyl 2-pyridylcarbamate | 7.5 g, 60% | N1=C(C=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
